US04963566
Sodium cyanoborohydride (7.9 g) was dissolved in tetrahydrofuran (50 ml). After adding and dissolving 8-hydroxymethyl-4-methylquinoline (3.5 g) in the solution, formic acid (50 ml) was added dropwise thereto with stirring under ice-cooling in nitrogen stream. The mixture was stirred for 5 hours at room temperature. After completion of the reaction, water was added to the reaction mixture and the mixture was concentrated under reduced pressure. The resulting residue was adjusted to alkalinic with a sodium hydroxide aqueous solution and extracted with chloroform. After drying the extract over anhydrous magnesium sulfate, chloroform was distilled off. The resulting residue was purified by silica gel column chromatography [eluent: dichloromethane-methanol(200:1)], then 1,4-dimethyl-8-hydroxymethyl-1,2-dihydroquinoline (0.9 g) was obtained.

reactant | Sodium cyanoborohydride | 7.9 g | C(#N)[BH3-].[Na+]
reactant | 8-hydroxymethyl-4-methylquinoline | 3.5 g | OCC=1C=CC=C2C(=CC=NC12)C | C11H11NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | 1,4-dimethyl-8-hydroxymethyl-1,2-dihydroquinoline | 0.9 g | CN1CC=C(C2=CC=CC(=C12)CO)C | C12H15NO
